US07348324B2
By a similar manner to Reference Example 29, 1-tert-butoxycarbonyl-piperidin-4-methanol (2.15 g, 10.0 mmol) was reacted with 1H-tetrazole (2.10 g, 30 mmol) to give 1tert-butoxycarbonyl-4-(2H-tetrazol-2-ylmethyl)piperidine as pale yellow oily substance (1.35 g, 50%) and 1-tert-1butoxycarbonyl-4-(1H-tetrazol-1-ylmethyl)piperidine as pale yellow solid substance (1.23 g, 46%).

reactant | 1-tert-butoxycarbonyl-piperidin-4-methanol | 10.0 mmol, 2.15 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | 1H-tetrazole | 30 mmol, 2.10 g | N1N=NN=C1 | CH2N4
product | 1tert-butoxycarbonyl-4-(2H-tetrazol-2-ylmethyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1N=CN=N1 | C12H21N5O2
